US07208513B2
SYNTHESIS OF 3-(4-FLUOROPHENYL)-1H-INDAZOLE-5-CARBOXAMIDE
To a solution of 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride (200 mg, 0.63 mmol) in methylene chloride (20 mL) was added saturated ammonium hydroxide (NH4OH). The solution was stirred overnight at room temperature when it was added to water (100 mL) and extracted with ethyl acetate (3×40 mL). The combined organic layers were dried (Na2SO4) and concentrated under vacuo to an oil. The resulting oil was chromatographed on silica gel, eluting with 10% methanol in methylene chloride to give the title compound (115 mg, 72%). 1H NMR (DMSO-d6) δ 13.4 (s, 1H), 8.60 (s, 1H), 0.09 (m, 2H), 7.94 (d, 1H), 7.61 (d, 1H), 7.38 (t, 2H); ES-MS (m/z) 256 [M+1]+.

reactant | 1-acetyl-3-(4-fluorophenyl)-1H-indazole-5-carbonyl chloride | 0.63 mmol, 200 mg | C(C)(=O)N1N=C(C2=CC(=CC=C12)C(=O)Cl)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | water | 100 mL | O | H2O
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-FLUOROPHENYL)-1H-INDAZOLE-5-CARBOXAMIDE | 115 mg, 72% | FC1=CC=C(C=C1)C1=NNC2=CC=C(C=C12)C(=O)N | C14H10FN3O
